US06242443B1
3-(1-Benzylpyrrolidin-3-ylamino)-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide
A suspension of 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (100 mg; 0.4 mmol) 1-benzyl-3-aminopyrrolidine (0.35 ml; 2.0 mmol) was stirred at 110° C. for 72 h. The reaction mixture was concentrated in vacu and the residue was purified by flash chromatography using ethyl acetate/methanol 10:1 to give oily crystals (114 mg). These were recrystallised from ethyl acetate to give the title compound as white crystals (83 mg, 53%); m.p. 208.5-209.5° C.

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.4 mmol, 100 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 1-benzyl-3-aminopyrrolidine | 2.0 mmol, 0.35 ml | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
product | 3-(1-Benzylpyrrolidin-3-ylamino)-7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 114 mg | C(C1=CC=CC=C1)N1CC(CC1)NC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C18H19ClN4O2S
